US07872031B2
(E)-tert-Butyl 5-(6-amino-5-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-3-yl)-3,4-dihydro-2H-azepine-1(7H)-carboxylate (14 mg, 29.9 μmol, 1 eq.) was diluted in 1:1 TFA:DCM (1.5 mL) and the mixture stirred at room temperature for 2 hours. The reaction was concentrated and purified by reversed-phase HPLC purification to give 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)-5-((E)-2,5,6,7-tetrahydro-1H-azepin-4-yl)pyridin-2-amine in quantitative yield; 1H NMR (300 MHz, DMSO-d6): 9.0 (br s, 2H); 8.25 (m, 1H); 7.87-7.77 (m, 1H); 7.75-7.6 (m, 2H); 7.6-4.5 (m, 1H); 5.85 (m, 1H); 3.7 (m, 2H); 3.25 (m, 2H); 2.5 (m, 2H); 1.78 (m, 2H).

reactant | (E)-tert-Butyl 5-(6-amino-5-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-3-yl)-3,4-dihydro-2H-azepine-1(7H)-carboxylate | 29.9 μmol, 14 mg, 1 eq. | NC1=C(C=C(C=N1)\C=1\CCCN(C/C1)C(=O)OC(C)(C)C)C1=NN=NN1C1=C(C(=CC=C1)F)F | C23H25F2N7O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)-5-((E)-2,5,6,7-tetrahydro-1H-azepin-4-yl)pyridin-2-amine | quantitative yield | FC1=C(C=CC=C1F)N1N=NN=C1C=1C(=NC=C(C1)/C/1=C/CNCCC1)N | C18H17F2N7
